US06660753B2
A solution of 3-methoxycarbonyl-5-iodobenzoic acid (3 g, 10 mmol) in thionyl chloride (2 mL) was heated for 2 hours at 60° C. The reaction mixture was cooled and concentrated in vacuo. The intermediate acid chloride was then diluted with tetrahydrofuran (10 mL) and cooled to 0° C. The mixture was then treated with a solution of 2M ammonia (20 mL, 40 mmol, methanol) and the reaction stirred for 1 hour at 0° C. The mixture was then filtered and the solvent removed in vacuo. Recrystallization from methanol afforded 2.5 g (82%) of 3-methoxycarbonyl-5-iodobenzamide, as a white solid.

reactant | 3-methoxycarbonyl-5-iodobenzoic acid | 10 mmol, 3 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)I | C9H7IO4
reactant | ammonia | 40 mmol, 2M, 20 mL | N | H3N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-methoxycarbonyl-5-iodobenzamide | 2.5 g, 82% | COC(=O)C=1C=C(C(=O)N)C=C(C1)I | C9H8INO3
